US07572921B2
[1-(3,5-Dichloro-benzyl)-1H-imidazol-2-yl]-carbamic acid tert-butyl ester was dissolved in anhydrous DMF and NaH was added. The mixture was stirred at room temperature for 10 min and 4-fluorobenzyl bromide was added. The reaction mixture was stirred at room temperature for another 1 h. The reaction was quenched with water and extracted with EtOAc (×3). The combined organic phase was dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel preparative TLC using CH2Cl2:MeOH 95:5 as an eluent to afford [1-(3,5-dichloro-benzyl)-1H-imidazol-2-yl]-(4-fluoro-benzyl)-carbamic acid tert-butyl ester (50 mg, 76%); LCMS m/z 450 [C22H22Cl2FN3O2+H]+.

reactant | [1-(3,5-Dichloro-benzyl)-1H-imidazol-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1N(C=CN1)CC1=CC(=CC(=C1)Cl)Cl)=O | C15H17Cl2N3O2
reactant | NaH | [H-].[Na+]
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | DMF | CN(C)C=O | C3H7NO
product | [1-(3,5-dichloro-benzyl)-1H-imidazol-2-yl]-(4-fluoro-benzyl)-carbamic acid tert-butyl ester | 50 mg, 76% | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)F)C=1N(C=CN1)CC1=CC(=CC(=C1)Cl)Cl)=O | C22H22Cl2FN3O2
